*****************************************************************
* NXP PSMN1R1_25YLC
*
* Polarity N-Channel
* Ratings 25V/1.3E-03OHMS/25A
*
* Date Created Sat Apr  2 04:49:56 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R1_25YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00025
RDS 7 4 25000000 TC=-0.05
RS 6 7 0.0001

RD 3 4 0.000498415996244669 TC=0.00901540237491805,-9.74576836641012e-06
RBD 9 4 0.000655813125522672 TC=0.00901540237491805,-9.74576836641012e-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 4.38393331457835e-09
RG 1 2 1.07663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	4673
+ -10	4665
+ -5	4621
+ -4	4573
+ -3	4546
+ -2	3944
+ -1	3163
+ -0.5	2639
+ -0.2	2247
+ -0.1	2130
+ 0	1935
+ 0.1	1703
+ 0.2	1579
+ 0.5	1222
+ 1	971
+ 2	728
+ 3	625
+ 4	558
+ 5	512
+ 6	479
+ 8	430
+ 10	399
+ 12	379
+ 20	310


.MODEL MINT NMOS(Vto=1.9204699483642 Kp=6.4614e+02 Nfs=360000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Vmax=650)


.MODEL DBD D(Bv=26.00 Ibv=2.50E-04 Rs=1E-6 Is=5.90415658252876e-12
+ N=1 M=0.790000000000001 VJ=0.99 Fc=0.5 Cjo=4.977e-09 Tt=4.3e-08)

.ENDS